US07989444B2
Preparation 82: 3-{[(1,1-dimethylethyl)oxy]carbonyl}-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carboxylic acid
1-(7-Cyano-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl)ethanone (0.9 g, 1 eq) was suspended in 10 ml of a 1:1 mixture of 30% aqueous NaOH and ethanol. The mixture was heated at reflux for 18 h, then cooled, neutralized with 6 N HCl and concentrated to afford a solid residue. The solid was treated with MeOH and insoluble materials were filtered off. The solution was concentrated to yield a solid residue that was dissolved in aqueous 1% NaOH (20 ml, 1.2 eq), then a solution of diterbutyl dicarbonate (1 g, 1.07 eq) in 1,4-dioxane was added drop wise and the mixture stirred for 12 h. The mixture was made acidic (pH 2) with 2 N HCl, and extracted with ethyl acetate. The organic layer was washed with 5% aqueous NaHCO3 and brine, then dried over Na2SO4 and concentrated to afford a crude material (0.9 g). Chromatography over silica gel (ethyl acetate/hexane/MeOH: 48/48/4) yielded the title compound as a white solid (0.8 g, 65% yield).

reactant | 1-(7-Cyano-1,2,4,5-tetrahydrobenzo[d]azepin-3-yl)ethanone | 0.9 g, 1 eq | C(#N)C1=CC2=C(CCN(CC2)C(C)=O)C=C1 | C13H14N2O
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
reactant | NaOH | 20 ml, 1.2 eq | [OH-].[Na+]
reactant | diterbutyl dicarbonate | 1 g, 1.07 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 2 N | Cl | ClH
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 3-{[(1,1-dimethylethyl)oxy]carbonyl}-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carboxylic acid | 0.8 g, 65% yield | CC(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)C(=O)O | C16H21NO4
